US08492378B2
methyl 2-[[3-(trifluoromethyl)benzyl]amino]isonicotinate
A solution of methyl 2-aminoisonicotinate (1.52 g, 10.00 mmol), 3-(trifluoromethyl)benzaldehyde (2.09 g, 12.00 mmol) and acetic acid (0.572 mL, 10.00 mmol) in tetrahydrofuran (30 mL) was stirred at room temperature for 30 min. To this reaction mixture was added sodium triacetoxyhydroborate (4.46 g, 20.00 mmol), and the resulting mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1-9/1) to give the title compound (1.06 g, yield 34%) as a colorless oil.

reactant | methyl 2-aminoisonicotinate | 10.00 mmol, 1.52 g | NC=1C=C(C(=O)OC)C=CN1 | C7H8N2O2
reactant | 3-(trifluoromethyl)benzaldehyde | 12.00 mmol, 2.09 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | acetic acid | 10.00 mmol, 0.572 mL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-[[3-(trifluoromethyl)benzyl]amino]isonicotinate | 1.06 g, yield 34% | FC(C=1C=C(CNC=2C=C(C(=O)OC)C=CN2)C=CC1)(F)F | C15H13F3N2O2
